US06541453B2
(3S)-3-Amino-ε-caprolactam (25 g) and triethylamine (19.7 g) were dissolved in THF (200 ml) and cooled to 5° C. Benzyl chloroformate (33 g) in THF (50ml) was added dropwise over 30 minutes. The reaction mixture was stirred at ambient temperature for 18 hours and then poured into water (500 ml). The reaction mixture was extracted with ethyl acetate (3×100 ml). The combined extracts were dried (MgSO4) and evaporated. The residue was triturated with ether (40 ml) and filtered to give 20 g of (S)-3-benzyloxycarbonylamino-ε-caprolactam as a white solid; NMR (d6-DMSO): 1.1-2(m, 6H), 2.9-3.2(m, 2H), 4.1-4.25 (m, 1H), 5.0 (s, 2H), 7.25-7.4 (m, 5H), 7.75 (t, 1H).

reactant | (3S)-3-Amino-ε-caprolactam | 25 g | N[C@@H]1CC(=O)NCCC1 | C6H12N2O
reactant | triethylamine | 19.7 g | C(C)N(CC)CC | C6H15N
reactant | Benzyl chloroformate | 33 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | water | 500 ml | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 50ml | C1CCOC1 | C4H8O
product | (S)-3-benzyloxycarbonylamino-ε-caprolactam | 20 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CC(=O)NCCC1 | C14H18N2O3
